US08609696B2
A mixture of (4-{[4-(1H-benzimidazol-2-yl)piperidin-1-yl]carbonyl}phenyl)boronic acid (0.349 g, 1.00 mmol), 2-bromopyrimidine (0.175 g, 1.10 mmol) and sodium tert-butoxide (0.106 g, 1.10 mmol) are suspended in a mixture of MeOH/1,4-dioxane (1 mL/2 mL). The suspension is purged with N2 before adding 1,1′-bis(diphenylphosphino)ferrocene-palladium (II) dichloride dichloromethane complex (41 mg, 5 mol %). The reaction is heated to 90° C. for 18 h. The mixture is diluted with EtOAc, washed with saturated aqueous NaHCO3, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue is triturated with MeCN and DCM to give 99 mg of [4-(1H-Benzimidazol-2-yl)piperidin-1-yl][4-(pyrimidin-2-yl)phenyl]methanone.

reactant | (4-{[4-(1H-benzimidazol-2-yl)piperidin-1-yl]carbonyl}phenyl)boronic acid | 1.00 mmol, 0.349 g | N1C(=NC2=C1C=CC=C2)C2CCN(CC2)C(=O)C2=CC=C(C=C2)B(O)O | C19H20BN3O3
reactant | 2-bromopyrimidine | 1.10 mmol, 0.175 g | BrC1=NC=CC=N1 | C4H3BrN2
reactant | sodium tert-butoxide | 1.10 mmol, 0.106 g | CC(C)([O-])C.[Na+]
solvent | MeOH 1,4-dioxane | 1 mL | CO.O1CCOCC1
product | [4-(1H-Benzimidazol-2-yl)piperidin-1-yl][4-(pyrimidin-2-yl)phenyl]methanone | 99 mg | N1C(=NC2=C1C=CC=C2)C2CCN(CC2)C(=O)C2=CC=C(C=C2)C2=NC=CC=N2 | C23H21N5O
